US06992087B2
Preparation of cis-(+/−)-5-(2-chloro-4-methoxyphenyl)-3,6-diethyl-N-[4-methoxytetrahydrofuran-3-yl]pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting of cis-(+/−)-4-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}tetrahydrofuran-3-ol and iodomethane and making non-critical variations provided the title compound as a colorless semi-solid. IR (liq.) 2970, 2936, 2874, 1606, 1566, 1483, 1441, 1397, 1287, 1230, 1203, 1182, 1126, 1076, 1049 cm−1; OAMS supporting ions at: ESI+ 392.1; MS (EI) m/z 391 (M+); HRMS (FAB) calcd for C20H26CLN3O3+H1 392.1741, found 392.1758. Anal. Calcd for C20H26ClN3O3: C, 61.30; H, 6.69; N, 10.72. Found: C, 61.16; H, 6.47; N, 10.65.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | cis-(+/−)-4-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}tetrahydrofuran-3-ol | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1[C@@H](COC1)O)CC | C19H24ClN3O3
reactant | iodomethane | IC | CH3I
product | cis-(+/−)-5-(2-chloro-4-methoxyphenyl)-3,6-diethyl-N-[4-methoxytetrahydrofuran-3-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1COC[C@@H]1OC)CC | C20H26ClN3O3
